US06538152B1
To a stirred solution of the obtained methyl 2-benzyloxy-5-vinylbenzoate (1.52 g) in tetrahydrofuran (15 ml) was added dropwise a solution of 9-borabicyclo[3.3.1]nonane (726 mg) in tetrahydrofuran (15 ml) at −20° C., and the mixture was stirred for 17.5 hours at room temperature. After the reaction mixture was cooled to 0° C., 2N aqueous sodium hydroxide solution (8.5 ml) and 30% aqueous hydrogen peroxide solution (6.8 ml) were added to the mixture, and the resulting mixture was stirred for 3 hours at room temperature. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=3/2) gave methyl 2-benzyloxy-5-(2-hydroxyethyl)benzoate (1.30 g).

reactant | methyl 2-benzyloxy-5-vinylbenzoate | 1.52 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C=C | C17H16O3
reactant | 9-borabicyclo[3.3.1]nonane | 726 mg | C12CCCC(CCC1)B2 | C8H15B
reactant | sodium hydroxide | 2N, 8.5 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 6.8 ml | OO | H2O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | methyl 2-benzyloxy-5-(2-hydroxyethyl)benzoate | 1.30 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)CCO | C17H18O4
